US08497278B2
3-((6-fluoro-2-(4-fluorophenyl)imidazo[1,2-a]pyridin-3-yl)methyl)-1,2,4-oxadiazol-5(4H)-one (236)
A solution of 2-(6-fluoro-2-(4-fluorophenyl)imidazo[1,2-α]pyridin-3-yl)-N′-hydroxyacetimidamide (0.040 g, 0.13 mmol) and triethylamine (0.025 mL, 0.198 mmol) in CHCl3 (1 mL) was treated with phenyl carbonochloridate (0.018 mL, 0.19 mmol) and stirred for 1 h. The reaction mixture was washed with water (30 mL) and dichloromethane (30 mL). The organic solution was dried with Na2SO4, evaporated under vacuum. The crude product was purified by HPLC to provide the title product. M/e+ 329 for C16H11F2N4O2 (M+H)+; 1H-NMR (400 MHz, CDCl3) δ 8.69 (dd, J=4.0, 2.2 Hz, 1H), 7.77 (dd, J=9.9, 4.7 Hz, 1H), 7.69 (m, 2H), 7.62 (m, 2H), 7.29 (m, 2H), 4.45 (s, 2H) ppm.

reactant | 2-(6-fluoro-2-(4-fluorophenyl)imidazo[1,2-α]pyridin-3-yl)-N′-hydroxyacetimidamide | 0.13 mmol, 0.040 g | FC=1C=CC=2N(C1)C(=C(N2)C2=CC=C(C=C2)F)CC(N)=NO | C15H12F2N4O
reactant | triethylamine | 0.198 mmol, 0.025 mL | C(C)N(CC)CC | C6H15N
reactant | phenyl carbonochloridate | 0.19 mmol, 0.018 mL | C(OC1=CC=CC=C1)(=O)Cl | C7H5ClO2
solvent | CHCl3 | 1 mL | C(Cl)(Cl)Cl | CHCl3
product | 3-((6-fluoro-2-(4-fluorophenyl)imidazo[1,2-a]pyridin-3-yl)methyl)-1,2,4-oxadiazol-5(4H)-one | FC=1C=CC=2N(C1)C(=C(N2)C2=CC=C(C=C2)F)CC2=NOC(N2)=O | C16H10F2N4O2
